US04575565
Preparation of 2-(2-Chlorophenyl)-1,3-Dithiolane
Following the general procedure described in Example 1, 55.3 gm (0.393 moles) of 2-chlorobenzaldehyde and 37.21 gm (0.395 moles) of 1,2-ethanedithiol gave, after distillation, 65.65 gm (0.303 moles) of a clear, colorless liquid, b.p. 121°-125° C. (0.03 mm/Hg). Elemental analysis for C9H9ClS2 :

reactant | 2-chlorobenzaldehyde | 0.393 moles, 55.3 gm | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 1,2-ethanedithiol | 0.395 moles, 37.21 gm | C(CS)S | C2H6S2
product | 2-(2-Chlorophenyl)-1,3-Dithiolane | ClC1=C(C=CC=C1)C1SCCS1 | C9H9ClS2
